US05216176
Synthesis of 4,8-dimethyl-7-methoxycoumarin
A solution of 4,8-dimethyl-7-hydroxycoumarin (0.190 g, 1.00 mmol) and methyl iodide (0.180 g, 1.30 mmol) in 50 ml of dry acetone was heated at reflux in the presence of 0.5 g of potassium carbonate for 14 hours. The solution was then cooled and filtered. The filtrate was evaporated under reduced pressure to yield a beige solid. The beige solid was taken up in 20% sodium hydroxide (aqueous) and collected by vacuum filtration. The crude product was recrystallized from methanol to yield shiny white crystals, m.p. 162°-164° C., 135 mg, 66% yield. 1H-NMR: 2.27 (s, 3H, C8 --CH3), 2.4 (d, 3H, C4 --CH3, J=1.2 Hz), 3.9 (s, 3H, OCH3), 6.1 (q, 1H, C3 --H, J=1.2 Hz), 6.8-6.9 (d, 1H, C6 --H, J=8.8 Hz), 7.4- 7.5 (d, 1H, C5 --H, J=8.8 Hz).

reactant | 4,8-dimethyl-7-hydroxycoumarin | 1.00 mmol, 0.190 g | CC1=CC(OC2=C(C(=CC=C12)O)C)=O | C11H10O3
reactant | methyl iodide | 1.30 mmol, 0.180 g | CI | CH3I
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 4,8-dimethyl-7-methoxycoumarin | 66% yield | CC1=CC(OC2=C(C(=CC=C12)OC)C)=O | C12H12O3
